US08314088B2
(6R)-6-(methoxymethyl)-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of (6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (465 mg) in methanol (10 mL) was added 20% Pd(OH)2/C (50 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 3 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (359 μL), and the mixture was stirred for 1 hr. The reaction mixture was filtered, and the obtained crystals were washed with ethyl acetate to give the title compound (223 mg, 56%).

reactant | (6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 465 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N(CCC)C)COC | C20H28N4O2
reactant | hydrogen chloride-ethyl acetate | 4 N, 359 μL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 50 mg | [OH-].[OH-].[Pd+2]
product | (6R)-6-(methoxymethyl)-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 223 mg, 56% | Cl.COC[C@@H]1OC2=C(CNC1)N=CC(=N2)N(CCC)C | InChI=1S/C13H22N4O2.ClH/c1-4-5-17(2)12-8-15-11-7-14-6-10(9-18-3)19-13(11)16-12;/h8,10,14H,4-7,9H2,1-3H3;1H/t10-;/m1./s1
